US09034895B2
1-(4-bromobutyl)-2-tosyl-1H-indole
To a solution of 2-tosyl-1H-indole (199 mg, 0.73 mmol) in 3 mL DMF was added 1,4-dibromobutane (263 μL, 2.20 mmol) in 1 mL DMF and KOH (41 mg, 0.73 mmol), and the reaction stirred at room temperature 1.75 h. The reaction mixture was then partitioned between water and ether, and the aqueous layer extracted twice with ether. The combined organic extract was washed with water, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 15% ethyl acetate in hexanes to give a final yield of 178 mg (0.44 mmol). 1H NMR (500 MHz, CDCl3, δ): 1.66-1.81 (m, 2H), 1.81-1.94 (m, 2H), 2.44 (s, 3H), 3.34 (t, J=6.4 Hz, 2H), 4.35 (t, J=7.6 Hz, 2H), 7.21 (t, J=7.0 Hz, 1H), 7.30-7.44 (m, 5H), 7.73 (d, J=7.9 Hz, 1H), 7.87 (d, J=8.1 Hz, 2H). 13C NMR (500 MHz, CDCl3, δ): 22.07, 29.04, 30.26, 33.26, 44.41, 111.08, 111.49, 121.67, 123.42, 125.83, 126.19, 128.09, 130.44, 135.22, 138.78, 139.12, 145.08. MS m/z 406.3 [M+H]+.

reactant | 2-tosyl-1H-indole | 0.73 mmol, 199 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C=1NC2=CC=CC=C2C1 | C15H13NO2S
reactant | 1,4-dibromobutane | 2.20 mmol, 263 μL | BrCCCCBr | C4H8Br2
reactant | KOH | 0.73 mmol, 41 mg | [OH-].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(4-bromobutyl)-2-tosyl-1H-indole | BrCCCCN1C(=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1 | C19H20BrNO2S
